US07674789B2
3-{8-(2,6-difluorophenyl)-7-oxo-2-[4-(1-pyrrolidinyl)-1-piperidinyl]-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl}-4-methyl-N-propylbenzamide
To a solution of compound 3-[8-(2,6-difluorophenyl)-2-(methylsulfinyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methyl-N-propylbenzamide (17 mg, 0.034 mmol) in DCM (2 mL) was added 4-(1-pyrrolidinyl)piperidine (15 mg, 0.10 mmol). The resultant solution was stirred at room temperature over might. The result mixture was concentrated. CombiFlash chromatography (mobile phase DCM/DCM[90]+MeOH[7]+NH4OH[3]) provided the title compound as a white solid (11 mg, 55%). LC-MS m/z 592 (M+H)+; 1H-NMR (MeOD) δ 1.00 (t, 3H), 1.34 (m, 2H), 1.68 (m, 3H), 1.90 (m, 5H), 2.31 (s, 3H), 2.36 (m, 1H), 2.68 (m, 6 H), 3.37 (m, 2H), 4.11 (m, 2H), 4.42 (m, 2H), 7.16 (m, 2H), 7.46 (m, 1H), 7.51 (m, 1H), 7.68 (s, 1H), 7.86 (d, 1H).

reactant | 3-[8-(2,6-difluorophenyl)-2-(methylsulfinyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methyl-N-propylbenzamide | 0.034 mmol, 17 mg | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C(=O)NCCC)C=CC2C)S(=O)C)=O | C24H23F2N5O3S
reactant | 4-(1-pyrrolidinyl)piperidine | 0.10 mmol, 15 mg | N1(CCCC1)C1CCNCC1 | C9H18N2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 3-{8-(2,6-difluorophenyl)-7-oxo-2-[4-(1-pyrrolidinyl)-1-piperidinyl]-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl}-4-methyl-N-propylbenzamide | 11 mg, 55% | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C(=O)NCCC)C=CC2C)N2CCC(CC2)N2CCCC2)=O | C32H37F2N7O2
